US08557832B2
3-[(1S,2S)-2-hydroxycyclohexyl]-6-[(6-methyl-1-oxidopyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one
To a suspension of 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[(6-methylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one hydrochloride (0.050 g, 0.12 mmol) in 0.6 mL of dichloromethane was added triethylamine (0.012 g, 0.12 mmol). Upon dissolution of the suspension, 3-chloroperoxybenzoic acid (0.031 g, 0.13 mmol) was added and the mixture was stirred at rt for 15 h. The mixture was diluted with dichloromethane, washed with saturated aqueous sodium carbonate, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-10% methanol in dichloromethane, to provide the title compound that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 416.1967 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 8.99-8.96 (m, 1H), 8.29 (s, 1H), 8.12 (s, 1H), 7.98 (s, 1H), 7.79-7.76 (m, 1H), 7.65-7.59 (m, 2H), 6.91 (d, J=8.1 Hz, 1H), 4.61 (br s, 1H), 4.31 (s, 2H), 4.00 (br s, 1H), 2.50-2.40 (m, 1H), 2.41 (s, 3H), 2.26-2.21 (m, 1H), 2.06-1.98 (m, 1H), 1.98-1.82 (m, 3H), 1.58-1.40 (m, 3H).

reactant | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[(6-methylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one hydrochloride | 0.12 mmol, 0.050 g | Cl.O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)C)C=CC=C3
reactant | triethylamine | 0.12 mmol, 0.012 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloroperoxybenzoic acid | 0.13 mmol, 0.031 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 0.6 mL | ClCCl | CH2Cl2
product | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[(6-methyl-1-oxidopyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=[N+](C(=CC1)C)[O-])C=CC=C3 | C25H25N3O3
